US09340549B2
(S)-5,5-dimethyl-4-phenyl-3-(piperidin-4-yl)oxazolidin-2-one
To a 250-mL round-bottomed flask were added (S)-tert-butyl 4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)piperidine-1-carboxylate (4530 mg, 12.10 mmol) and 2,2,2-trifluoroacetic acid (23.16 mL, 302 mmol) in DCM (24.200 mL). The mixture was then stirred at rt overnight. The reaction mixture was concentrated in vacuo. The material thus obtained was dissolved in DCM, and extracted with water (3×). The aqueous layers were combined and the pH of the solution was adjusted to above 8 by adding 35% NH4OH water solution. The solution was then extracted with EtOAc (3×). The organic extract was dried over MgSO4. The solution was filtered and concentrated in vacuo to give the residual material as a yellow solid. The material was used without further purification.

reactant | (S)-tert-butyl 4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)piperidine-1-carboxylate | 12.10 mmol, 4530 mg | CC1([C@@H](N(C(O1)=O)C1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C | C21H30N2O4
reactant | 2,2,2-trifluoroacetic acid | 302 mmol, 23.16 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 24.200 mL | C(Cl)Cl | CH2Cl2
product | (S)-5,5-dimethyl-4-phenyl-3-(piperidin-4-yl)oxazolidin-2-one | CC1([C@@H](N(C(O1)=O)C1CCNCC1)C1=CC=CC=C1)C | C16H22N2O2
